US06900215B2
1-(5-Bromo-2-fluorophenyl)-1H-pyrazole (1 g, 4.15 mmol) was reacted with bis(neopentyl glycolato)diboron (1.03 g, 4.56 mmol) using the method in Example 51 to give 1-[5-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-2-fluorophenyl]-1H-pyrazole as a white solid: δH (400 MHz, d6-DMSO) 0.96 (6H, s), 3.78 (4H, s), 6.57 (1H, t, J 2), 7.44 (1H, dd, J 12 and 8), 7.67-7.71 (1H, m), 7.79 (1H, d, J 2), 8.08 (1H, dd, J 9 and 2), 8.21 (1H, t, J 3).

reactant | 1-(5-Bromo-2-fluorophenyl)-1H-pyrazole | 4.15 mmol, 1 g | BrC=1C=CC(=C(C1)N1N=CC=C1)F | C9H6BrFN2
reactant | bis(neopentyl glycolato)diboron | 4.56 mmol, 1.03 g | B1(OCC(CO1)(C)C)B2OCC(CO2)(C)C | C10H20B2O4
product | 1-[5-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-2-fluorophenyl]-1H-pyrazole | CC1(COB(OC1)C=1C=CC(=C(C1)N1N=CC=C1)F)C | C14H16BFN2O2
